US09056873B2
Preparation 10: 2-(Tributylstannyl)thieno[2,3-b]pyridine
To a cold (−78° C.) solution of thieno[2,3-b]pyridine (2.000 g, 14.79 mmol) in anhydrous THF (50 mL) was added n-butyllithium (10.17 mL, 16.27 mmol) dropwise. The reaction mixture was stirred for 60 minutes at −78° C. A solution of tributylchlorostannane (4.79 mL, 17.75 mmol) in anhydrous THF (10 mL) was added and the reaction mixture was stirred for 30 minutes at −78° C. The solution was allowed to warm to room temperature over a period of 2 to 3 hours. Saturated aqueous sodium bicarbonate was added. The aqueous phase was extracted with ether (3×200 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo. The crude product was purified by silica gel column chromatography, eluting with a gradient of 10-50% EtOAc and hexane over a period of 60 minutes. The desired fractions were collected and the solvent removed in vacuo to give the title compound (4.5 g, 72%) 1H NMR (500 MHz, DMSO-d6) δ ppm 0.87 (t, J=7.32 Hz, 9H), 1.13-1.20 (m, 6H), 1.32 (dq, J=14.64, 7.32 Hz, 6H), 1.52-1.64 (m, 6H), 7.34-7.42 (m, 1H), 7.51 (s, 1H), 8.25 (dd, J=7.81, 1.46 Hz, 1H), 8.50 (dd, J=4.39, 1.46 Hz, 1H).

reactant | thieno[2,3-b]pyridine | 14.79 mmol, 2.000 g | S1C=CC=2C1=NC=CC2 | C7H5NS
reactant | n-butyllithium | 16.27 mmol, 10.17 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 17.75 mmol, 4.79 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(Tributylstannyl)thieno[2,3-b]pyridine | 4.5 g, 72% | C(CCC)[Sn](C1=CC=2C(=NC=CC2)S1)(CCCC)CCCC | InChI=1S/C7H4NS.3C4H9.Sn/c1-2-6-3-5-9-7(6)8-4-1;3*1-3-4-2;/h1-4H;3*1,3-4H2,2H3;
